US07521446B2
N-((1S)-1-Phenylethyl)-2,2,2-trifluoro-N-(4-oxocyclohexyl)acetamide
N-((1S)-1-Phenylethyl)-N-(1,4-dioxaspiro[4.5]dec-8-yl)-2,2,2-trifluoroacetamide (15.31 g, 42.84 mmol) was dissolved in tetrahydrofuran (30 mL). The solution was treated with 30 mL of 3.0 N aqueous HCl. The reaction was heated to 50-60° C. over 48 h. The reaction was cooled to room temperature. THF was removed under reduced pressure. The crude product was extracted with dichloromethane and was purified by silica gel column (eluent 15-20% ethyl acetate in hexanes). The product was isolated as a yellow oil (5.49 g, 41% yield) M+1: 314.

reactant | N-((1S)-1-Phenylethyl)-N-(1,4-dioxaspiro[4.5]dec-8-yl)-2,2,2-trifluoroacetamide | 42.84 mmol, 15.31 g | C1(=CC=CC=C1)[C@H](C)N(C(C(F)(F)F)=O)C1CCC2(OCCO2)CC1 | C18H22F3NO3
reactant | HCl | 3.0 N, 30 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-((1S)-1-Phenylethyl)-2,2,2-trifluoro-N-(4-oxocyclohexyl)acetamide | 5.49 g, 41% yield | C1(=CC=CC=C1)[C@H](C)N(C(C(F)(F)F)=O)C1CCC(CC1)=O | C16H18F3NO2
